US07745414B2
4-Bromo-3-hydroxymethyl-1-iodo-benzene
Oxalyl chloride (13.0 mL) is added to an ice-cold solution of 2-bromo-5-iodo-benzoic acid in CH2Cl2 (200 mL). DMF (0.2 mL) is added and the solution is stirred at room temperature for 6 h. Then, the solution is concentrated under reduced pressure and the residue is dissolved in THF (100 mL). The resulting solution is cooled in an ice-bath and LiBH4 (3.4 g) is added in portions. The cooling bath is removed and the mixture is stirred at room temperature for 1 h. The reaction mixture is diluted with THF and treated with 0.1 M hydrochloric acid. Then, the organic layer is separated and the aqueous layer is extracted with ethyl acetate. The combined organic layers are dried (Na2SO4) and the solvent is evaporated under reduced pressure to give the crude product.

reactant | Oxalyl chloride | 13.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-bromo-5-iodo-benzoic acid | BrC1=C(C(=O)O)C=C(C=C1)I | C7H4BrIO2
reactant | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-3-hydroxymethyl-1-iodo-benzene | BrC1=C(C=C(C=C1)I)CO | C7H6BrIO
